US03969506
A charge of 100 ml. of dioxane, 3.5 g. 2-methylmercaptoimidazoline hydroiodide, 6 g. N-(cyclopropylmethyl)isatoic anhydride and 2 pellets of sodium hydroxide is refluxed for 1 hour in a reaction vessel. The reaction is cooled to 20°C. and the solvent evaporated. The residue is dissolved in methylene chloride and this solution is extracted with 1 normal hydrochloride solution. The acid solution is extracted with methylene chloride (discard) and with ether (discard) and then made basic with 10% sodium bicarbonate solution. The precipitate which forms is filtered off, washed with water and dissolved in methylene chloride. After drying with anhydrous sodium sulfate, the solvent is exchanged from ether and the product crystallized by additon of pentane. This material is converted into its hydrogen maleate addition salt by conventional procedures to obtain 10-cyclopropylmethyl-2,3-dihydroimidazo[2,1-b]quinazolin-5(10H)-one hydrogen maleate, m.p. 189°-192°C.

reactant | 2-methylmercaptoimidazoline hydroiodide | I.CSC=1NCCN1
reactant | N-(cyclopropylmethyl)isatoic anhydride | C1(CC1)CN1C=2C(C(=O)OC1=O)=CC=CC2 | C12H11NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 10-cyclopropylmethyl-2,3-dihydroimidazo[2,1-b]quinazolin-5(10H)-one hydrogen maleate | C(\C=C/C(=O)O)(=O)O.C1(CC1)CN1C=2N(C(C3=CC=CC=C13)=O)CCN2 | InChI=1S/C14H15N3O.C4H4O4/c18-13-11-3-1-2-4-12(11)17(9-10-5-6-10)14-15-7-8-16(13)14;5-3(6)1-2-4(7)8/h1-4,10H,5-9H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
